US08124641B2
To a solution of [4-(3-trifluoromethyl-5-trimethylsilanylethynyl-benzenesulfonylamino)-4,5,6,7-tetrahydro-indazol-1-yl]-acetic acid ethyl ester (40.0 mg, 0.076 mmol) in N,N-dimethylformamide and water (3 mL, 150:1) was added potassium fluoride (23.0 mg, 0.30 mmol). The mixture was stirred at room temperature for 4 hours. The resulting mixture was poured into ice and extracted with dichloromethane. The organic layer was washed with brine, dried over sodium sulfate, concentrated and purified by column chromatography (gradient elution, 0-5% methanol in dichloromethane) to afford [4-(3-ethynyl-5-trifluoromethyl-benzenesulfonylamino)-4,5,6,7-tetrahydro-indazol-1-yl]-acetic acid ethyl ester (34.0 mg, 98.2%) as a white solid. MS calcd. for C20H20F3N3O4S 455, obsd. (ESI+) [(M+H)+] 456.

reactant | [4-(3-trifluoromethyl-5-trimethylsilanylethynyl-benzenesulfonylamino)-4,5,6,7-tetrahydro-indazol-1-yl]-acetic acid ethyl ester | 0.076 mmol, 40.0 mg | C(C)OC(CN1N=CC=2C(CCCC12)NS(=O)(=O)C1=CC(=CC(=C1)C#C[Si](C)(C)C)C(F)(F)F)=O | C23H28F3N3O4SSi
reactant | potassium fluoride | 0.30 mmol, 23.0 mg | [F-].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 3 mL | O | H2O
product | [4-(3-ethynyl-5-trifluoromethyl-benzenesulfonylamino)-4,5,6,7-tetrahydro-indazol-1-yl]-acetic acid ethyl ester | 34.0 mg, 98.2% | C(C)OC(CN1N=CC=2C(CCCC12)NS(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)C#C)=O | C20H20F3N3O4S
